US07834013B2
Enantiomerically Enriched (trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide (IV-5)
HATU (0.23 g, 0.60 mmol) and (+)-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid (III-3c) (0.20 g, 0.46 mmol) in DMF (15 mL) were stirred at RT for 10 min, then a solution of ammonia in MeOH (3 mL, 21 mmol) was added. The solution was stirred at RT for 16 h, then water (50 mL) and dichloromethane (50 mL) were added and the organic layer was separated, washed with water (50 mL), dried over Na2SO4, filtered and concentrated. The crude material was purified on silica gel eluting with an increasing gradient from 50% ethyl acetate/hexanes to 100% ethyl acetate to give the title compound as a white powder (0.095 g, 48%). 1H NMR (400 MHz, DMSO) δ 8.01 (d, J=8.0 Hz, 2H), 7.76 (d, J=8.1 Hz, 2H), 7.46 (s, 1H), 6.82 (d, J=8.2 Hz, 2H), 6.78 (s, 1H), 6.51 (d, J=8.3 Hz, 2H), 6.20 (t, J=5.8 Hz, 1H), 4.38 (d, J=5.6 Hz, 2H), 2.42 (s, 3H), 2.04-1.99 (m, 1H), 1.63-1.59 (m, 1H), 1.18-1.14 (m, 1H), 1.01-0.97 (m, 1H). ES-MS m/z 433.2 (MH+).

reactant | HATU | 0.60 mmol, 0.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (+)-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid | 0.46 mmol, 0.20 g | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2S
reactant | ammonia | N | H3N
reactant | MeOH | 21 mmol, 3 mL | CO | CH4O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide | 0.095 g, 48% | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)N)C1=CC=C(C=C1)C(F)(F)F | C22H20F3N3OS
